* TIP41C NPN Power Transistor Subcircuit Model
.subckt TIP41C C B E
* Connections: Collector, Base, Emitter
Q1 C_int B_int E internal_npn
RC C C_int 0.05
RB B B_int 1.0
.model internal_npn NPN (
+ IS = 1.2e-12
+ BF = 75
+ VAF = 60
+ IKF = 3.0
+ ISE = 1.2e-11
+ NE = 2.0
+ RE = 0.05
+ RC = 0.02
+ CJC = 120p
+ CJE = 400p
+ TR = 1u
+ TF = 50n
)
.ends TIP41C